US05932695
Methyl 4-(4-acetyl-2-methoxy-5-nitrophenoxy)butyrate (5.06 g) in methanol (300 cm3) was cooled with stirring at 0° C. under argon. Sodium borohydride (640 mg) was added portionwise and the resulting solution stirred at 40° C. overnight. Further sodium borohydride (500 mg) was added as TLC analysis indicated that starting material remained. After a further 3 h TLC analysis indicated that the reaction was complete. The reaction was cooled, acidified with dilute (1M) hydrochloric acid and evaporated to dryness. The residue was dissolved in ethyl acetate (250 cm3) washed with dilute aqueous acid and brine, dried over magnesium sulphate and filtered. The solvent was evaporated to leave a yellow oil which solidified on standing. After recrystallisation from methanol/diethyl ether, methyl 4-[4-(1-hydroxyethyl)-2-methoxy-5-nitrophenoxy]butyrate was obtained as yellow needles (5.04 g, ~100%). 1H NMR (CDCl3) δ1.52 (3H, d, J=8.3 Hz, MeCHO), 2.18 (2H, m, CCH2C), 2.53 (2H, t, J=6.5 Hz, CH2CO), 3.71 (3H, s, OMe), 3.95 (3H, s, OMe), 4.13 (2H, t, J=7.3 Hz, CH2O), 5.52 (1H, q, J=8.2 Hz, CHOH), 7.29 (1H, s, aromatic) and 7.57 (1H, s, aromatic).

reactant | Methyl 4-(4-acetyl-2-methoxy-5-nitrophenoxy)butyrate | 5.06 g | C(C)(=O)C1=CC(=C(OCCCC(=O)OC)C=C1[N+](=O)[O-])OC | C14H17NO7
reactant | Sodium borohydride | 640 mg | [BH4-].[Na+]
reactant | sodium borohydride | 500 mg | [BH4-].[Na+]
solvent | methanol | 300 cm3 | CO | CH4O
solvent | hydrochloric acid | 1M | Cl | ClH
product | methyl 4-[4-(1-hydroxyethyl)-2-methoxy-5-nitrophenoxy]butyrate | OC(C)C1=CC(=C(OCCCC(=O)OC)C=C1[N+](=O)[O-])OC | C14H19NO7
